** sch_path: /foss/designs/adex_neuron/ttihp26a-adex-neuron-ncs/xschem/mux21.sch
.subckt mux21 VDD VSS IN0 IN1 SEL0 SEL1 OUT
*.PININFO VDD:B VSS:B IN0:I IN1:I SEL0:I SEL1:I OUT:O
x1 VDD VSS SEL0 OUT IN0 tg_lv
x2 VDD VSS SEL1 OUT IN1 tg_lv
.ends

* expanding   symbol:  tg_lv.sym # of pins=5
** sym_path: /foss/designs/adex_neuron/ttihp26a-adex-neuron-ncs/xschem/tg_lv.sym
** sch_path: /foss/designs/adex_neuron/ttihp26a-adex-neuron-ncs/xschem/tg_lv.sch
.subckt tg_lv VDD VSS SEL OUT IN
*.PININFO IN:I VDD:B VSS:B OUT:B SEL:I
x1 VDD SEL selbar VSS inv_lv
M3 IN SEL OUT VSS sg13_lv_nmos w=8u l=0.15u ng=8
M4 IN selbar OUT VDD sg13_lv_pmos w=8u l=0.15u ng=8
Mdumm1 VDD VDD VDD VDD sg13_lv_pmos w=1u l=0.15u ng=1 m=2
Mdumm2 VSS VSS VSS VSS sg13_lv_nmos w=1u l=0.15u ng=1 m=2
.ends


* expanding   symbol:  inv_lv.sym # of pins=4
** sym_path: /foss/designs/adex_neuron/ttihp26a-adex-neuron-ncs/xschem/inv_lv.sym
** sch_path: /foss/designs/adex_neuron/ttihp26a-adex-neuron-ncs/xschem/inv_lv.sch
.subckt inv_lv VDD in out VSS
*.PININFO in:I out:O VDD:B VSS:B
M3 out in VDD VDD sg13_lv_pmos w=1u l=0.15u ng=1
M4 out in VSS VSS sg13_lv_nmos w=1u l=0.15u ng=1
Mdumm1 VDD VDD VDD VDD sg13_lv_pmos w=1u l=0.15u ng=1 m=2
Mdumm2 VSS VSS VSS VSS sg13_lv_nmos w=1u l=0.15u ng=1 m=2
.ends

